US08957203B2
Preparation of 5-chloro-3-(2,2-difluoroethoxy)-1-fluoroisoquinoline
To a solution of 1,5-dichloro-3-(2,2-difluoroethoxy)isoquinoline (581 mg, 2.089 mmol) in DMSO (5 mL) was added CsF (349 mg, 2.298 mmol) and heated to 140° C. for 2 hrs. LC/MS showed the desired product. The reaction was diluted with ethyl acteate and washed with water, and brine. The organic phase was collected, dried over MgSO4, and concentrated under vacuum to give the crude product as a reddish brown solid. Crude material purified via silica gel chromatography (90 g column; 0-40% EtOAc:Hex) to get the product 5-chloro-3-(2,2-difluoroethoxy)-1-fluoroisoquinoline (450 mg, 82% yield) as a yellow solid. MS: MS m/z 262.1(M++1).

reactant | 1,5-dichloro-3-(2,2-difluoroethoxy)isoquinoline | 2.089 mmol, 581 mg | ClC1=NC(=CC2=C(C=CC=C12)Cl)OCC(F)F | C11H7Cl2F2NO
reactant | CsF | 2.298 mmol, 349 mg | [F-].[Cs+]
solvent | DMSO | 5 mL | CS(=O)C | C2H6OS
product | 5-chloro-3-(2,2-difluoroethoxy)-1-fluoroisoquinoline | ClC1=C2C=C(N=C(C2=CC=C1)F)OCC(F)F | C11H7ClF3NO
